* C:\Users\2005B\OneDrive\Desktop\PCB Project\555timer\LTspice_circuit_n_simulation\555timer.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 0 N001 Vout Vp N003 N001 N002 Vp NE555
C1 0 N003 0.01µF
C2 0 N001 10µF
RB N002 N001 10k
RA Vp N002 1k
R3 Vp Vout 1k
R4 Vout 0 1k
R6 V_trig Vout 14713.896
C4 V_trig 0 10µF
V2 Vp 0 5
V3 0 Vn 5
L1 N004 Vout 60
C3 V_sine 0 5µF
R1 V_sine N004 3500
R2 N004 Vout 25800
* .tran 5
.meas tran vmax max V(OUT)
* Assume as potentiometer \nwhere you can change\nC = 10uF\nR = 1/(f * C) to get good triangle wave
.lib LM324.ti.lib
* .tran 30
.tran 3
.lib NE555.sub
.backanno
.end
